US08357693B2
To 2-(3-hydroxyphenyl)quinazolin-4(3H)-one (11.0 g, 45.98 mmole) was added pyridine (16.06 mL, 15.71 g, 0.199 mmole) followed by addition of acetic anhydride (145 mL) and the reaction mixture was heated to 105° C. and stirred for 3.5 h. The reaction mixture was cooled to ambient temperature and then poured onto ice-water (800 mL) and stirred for 2 h. The solid was then filtered and washed with water, ethanol, ether and finally hexane and dried for several hours under high vacuum to give 3-(4-oxo-3,4-dihydroquinazolin-2-yl)phenyl acetate. (8.4 g, mmol, 65%).

reactant | 2-(3-hydroxyphenyl)quinazolin-4(3H)-one | 45.98 mmole, 11.0 g | OC=1C=C(C=CC1)C1=NC2=CC=CC=C2C(N1)=O | C14H10N2O2
reactant | pyridine | 0.199 mmole, 16.06 mL, 15.71 g | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 145 mL | C(C)(=O)OC(C)=O | C4H6O3
product | 3-(4-oxo-3,4-dihydroquinazolin-2-yl)phenyl acetate | C(C)(=O)OC1=CC(=CC=C1)C1=NC2=CC=CC=C2C(N1)=O | C16H12N2O3
